US07057042B2
2-(chloromethyl)-1H-thieno[3,4-d]imidazole
3,4-Thiophenediamine (0.5 g, Toronto Research Chemicals, Chemical Abstracts #90069-81-1) and 2-chloro-1,1,1-triethoxyethane (0.9 g) were combined in dimethoxyethane (7 mL) in a sealed tube and heated at 95° C. for one hour. After allowing to cool to room temperature and stirring for 24 hours, the mixture was treated with hexane (10 mL) and filtered. The filter cake was dried under reduced pressure to provide the title compound. MS (DCI/NH3) m/z 173 (M+H)+.

reactant | 3,4-Thiophenediamine | 0.5 g | S1C=C(C(=C1)N)N | C4H6N2S
reactant | 2-chloro-1,1,1-triethoxyethane | 0.9 g | ClCC(OCC)(OCC)OCC | C8H17ClO3
reactant | hexane | 10 mL | CCCCCC | C6H14
solvent | dimethoxyethane | 7 mL | C(OC)COC | C4H10O2
product | 2-(chloromethyl)-1H-thieno[3,4-d]imidazole | ClCC1=NC=2C(N1)=CSC2 | C6H5ClN2S
